US03953429
9β,11β-Epoxy-3α-hydroxy-5α-pregnan-20-one
3α-Hydroxy-5α-pregn-9(11)-en-20-one (500 mg.) was dissolved in dioxan (50 ml.) and water (12.5 ml.) under nitrogen; N-bromosuccinimide (325 mg.) was added followed by perchloric acid (60% w/v; 0.175 ml.) in water (5 ml.) and the reaction was allowed to stand at room temperature for 5 min. The pH was adjusted to 11.7 with 2N sodium hydroxide and the reaction mixture was allowed to stand at room temperature for a further 15 mins. The pH was adjusted to 6 with glacial acetic acid and the mixture was poured into water. The steroid was extracted with chloroform and triturated with ether to give a white solid; crystallisation from ether followed by crystallisation from methyl acetate-petrol gave the title compound (134 mg.), m.p. 160°-162°, [α]D + 101°.

reactant | 3α-Hydroxy-5α-pregn-9(11)-en-20-one | 500 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC=C3[C@]2(CC1)C)C | C21H32O2
reactant | N-bromosuccinimide | 325 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | perchloric acid | 0.175 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | water | 12.5 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9β,11β-Epoxy-3α-hydroxy-5α-pregnan-20-one | 134 mg | O1[C@]23[C@]4(CC[C@H](C[C@@H]4CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C[C@@H]31)C)O)C | C21H32O3
